US09358231B2
tert-butyl 4-(4-(4-(5-(3-(trifluoromethyl)phenylcarbamoyl)naphthalen-1-yloxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-6-ylamino)phenylsulfonyl)piperazine-1-carboxylate (42 mg, 70% yield) was prepared as described for Example 5-B starting from 5-(6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)-1-naphthamide (40 mg, 0.065 mmol) and tert-butyl 4-(4-aminophenylsulfonyl)piperazine-1-carboxylate (22 mg, 0.065 mmol). MS m/z: 917 [M+1].

reactant | 5-(6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)-1-naphthamide | 0.065 mmol, 40 mg | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)OC2=C1C=CC=C(C1=CC=C2)C(=O)NC2=CC(=CC=C2)C(F)(F)F | C31H29ClF3N3O3Si
reactant | tert-butyl 4-(4-aminophenylsulfonyl)piperazine-1-carboxylate | 0.065 mmol, 22 mg | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O4S
product | tert-butyl 4-(4-(4-(5-(3-(trifluoromethyl)phenylcarbamoyl)naphthalen-1-yloxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-6-ylamino)phenylsulfonyl)piperazine-1-carboxylate | 42 mg, 70% yield | FC(C=1C=C(C=CC1)NC(=O)C1=C2C=CC=C(C2=CC=C1)OC1=C2C(=NC(=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C)N(C=C2)COCC[Si](C)(C)C)(F)F | C46H51F3N6O7SSi
